US07498346B2
[1-((R)-3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amine (72.9 mg, 0.17 mmol), EDCI (36.4 mg, 0.19 mmol) and HOBT (25.7 mg, 0.19 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added 6-chloro-2,4-dimethyl-nicotinic acid hydrochloride salt (42.2 mg, 0.19 mmol) followed by DIPEA (66.3 μL, 0.38 mmol) and the resulting mixture was stirred at room temperature for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by preparative TLC (91:8:1, CH2Cl2/MeOH/NH4OH) afforded 6-chloro-2,4-dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amino]-piperidin-1-yl}-butyl)-nicotinamide as a white foam (61.1 mg, 60%). 1H NMR (CDCl3) δ 1.03 (d, 3H, J=5 Hz), 1.23 (m, 1H), 1.40 (m, 1H), 1.65 (m, 3H), 1.76 (m, 1H), 1.91 (d, 2H, J=11 Hz), 2.24 (m, 1H), 2.30 (s, 3H), 2.41 (s, 3H), 2.51 (s, 3H), 2.61 (m, 1H), 2.85 (m, 3H), 3.40 (m 1H), 3.48 (s, 1H), 3.74 (m, 2H), 4.25 (s, 2H), 6.84 (dd, 1H, J=3 Hz, 9 Hz), 6.99 (s, 1H), 7.13 (d, 1H, J=5 Hz), 7.41 (m, 2H), 8.05 (d, 1H, J=3 Hz), 8.17 (s, 1H), 8.38 (d, 1H, J=5 Hz). ES-MS m/z 589 (M+H), 612 (M+Na). Anal. Calcd. For C30H36ClF3N6O: C, 61.17; H, 6.16; Cl, 6.02; F, 9.67; N, 14.27.

reactant | [1-((R)-3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amine | 0.17 mmol, 72.9 mg | NCC[C@@H](C)N1CCC(CC1)N(C=1C=NC(=CC1)C(F)(F)F)CC=1C=NC=CC1C | C22H30F3N5
reactant | EDCI | 0.19 mmol, 36.4 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.19 mmol, 25.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-chloro-2,4-dimethyl-nicotinic acid hydrochloride salt | 0.19 mmol, 42.2 mg | Cl.ClC1=NC(=C(C(=O)O)C(=C1)C)C
reactant | DIPEA | 0.38 mmol, 66.3 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-chloro-2,4-dimethyl-N-((R)-3-{4-[(4-methyl-pyridin-3-ylmethyl)-(6-trifluoromethyl-pyridin-3-yl)-amino]-piperidin-1-yl}-butyl)-nicotinamide | 61.1 mg, 60% | ClC1=NC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(C=2C=NC(=CC2)C(F)(F)F)CC=2C=NC=CC2C)C(=C1)C)C | C30H36ClF3N6O
